US06583135B2
Preparation of 8-Phenyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole
A mixture of 3-benzyl-8-phenyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (1.07 g, 3.0 mmol), glacial acetic acid (2 drops) and Pd/C (10%, 0.6 g) in ethanol (150 mL) was reacted in a manner similar to Example 8 to give 0.40 g (51%) of the title compound as a tan crystalline solid: mp 220-222° C.; 1H NMR (400 MHz, DMSO-d6) δ 10.41, 7.61-7.59, 7.46, 7.42-7.38, 7.28-7.22, 3.04-3.01, 2.96-2.94, 2.87-2.84; 13C NMR (100 MHz, DMSO-d6) δ 142.4, 138.2, 135.3, 133.0, 128.5, 128.4, 126.8, 126.0, 117.9, 117.5, 111.8, 108.8, 50.5, 48.8, 32.5, 28.0; IR (drift) 3305, 2929, 2918, 2893, 2827, 1468, 1324, 1242, 869, 814, 787, 762, 753, 743, 700 cm−1; MS (EI) m/z 262 (M+); HRMS (FAB) calcd for C18H18N2+H: 263.1548, found: 263.1543; Anal. Calcd for C18H18N2.0.1C2H4O2; C, 81.46; H, 6.91; N, 10.44. Found: C, 81.11; H, 7.01; N, 10.35.

reactant | 3-benzyl-8-phenyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 3.0 mmol, 1.07 g | C(C1=CC=CC=C1)N1CCC=2NC=3C=C(C=CC3C2CC1)C1=CC=CC=C1 | C25H24N2
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.6 g | [Pd] | Pd
product | 8-Phenyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 0.40 g, 51% | C1(=CC=CC=C1)C=1C=CC=2C3=C(NC2C1)CCNCC3 | C18H18N2
